US09340556B2
A mixture of ethyl 1-(tert-butyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (50 g, 162 mmol), KOH (136 g, 2425 mmol) and 4-methoxybenzyl alcohol (201 ml, 1617 mmol) was heated at 80° C. under N2 for 8 h. LCMS showed completion of reaction. The solution was adjusted to pH 2, extracted with EA and washed with water. The organic phase was concentrated in vacuo and the crude product was triturated in Et2O to afford 1-(tert-butyl)-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (61 g, 118 mmol, 72.9% yield) as pale yellow solid. LCMS: (M+H)+: 518.3.

reactant | ethyl 1-(tert-butyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 162 mmol, 50 g | C(C)(C)(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C16H17F2NO3
reactant | KOH | 2425 mmol, 136 g | [OH-].[K+]
reactant | 4-methoxybenzyl alcohol | 1617 mmol, 201 ml | COC1=CC=C(CO)C=C1 | C8H10O2
product | 1-(tert-butyl)-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 118 mmol, 61 g, 72.9% yield | C(C)(C)(C)N1C=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C30H31NO7
